US07179823B1
A mixture of ethyl 3-[3-phenyl-1-[3-[2-(2-pyridyl)ethylaminocarbonyl]benzyl]-1H-pyrazol-4-yl]propionate (450 mg), 1 N aqueous sodium hydroxide solution (2 ml), ethanol (2 ml), and tetrahydrofuran (2 ml) was stirred at room temperature for one hour. After 1 N hydrochloric acid (2 ml) was added to the reaction mixture, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained crystals were collected by filtration, and 3-[3-phenyl-1-[3-[2-(2-pyridyl)ethylaminocarbonyl]benzyl]-1H-pyrazol-4-yl]propionic acid (400 mg, yield: 95%) was obtained. This was recrystallized from tetrahydrofuran-hexane. Melting point: 166–167° C.

reactant | ethyl 3-[3-phenyl-1-[3-[2-(2-pyridyl)ethylaminocarbonyl]benzyl]-1H-pyrazol-4-yl]propionate | 450 mg | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC(=CC=C1)C(=O)NCCC1=NC=CC=C1 | C29H30N4O3
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1 N, 2 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-[3-phenyl-1-[3-[2-(2-pyridyl)ethylaminocarbonyl]benzyl]-1H-pyrazol-4-yl]propionic acid | 400 mg, yield: 95% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)O)CC1=CC(=CC=C1)C(=O)NCCC1=NC=CC=C1 | C27H26N4O3
